US06288082B1
6,7-Dimethoxy-4-(2-methyl-1H-benzoimidazol-5-ylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 150, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 294.4 mg (2.0 mmol) of 2-methyl-5-aminobenzimidazol and 115.6 mg (1 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol was refluxed for 4 hr. The work up gave 220.2 mg (61.3%) of the product as a sand color solid, m.p. 207° C. (dce.), mass (electrospray, m/e): M+H 359.9. HRCIMS: calcd 359.138 for C20H17N5O2 (M+), obsd 359.1403.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 2-methyl-5-aminobenzimidazol | 2.0 mmol, 294.4 mg | CC=1NC2=C(N1)C=CC(=C2)N | C8H9N3
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4-(2-methyl-1H-benzoimidazol-5-ylamino)-quinoline-3-carbonitrile | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC2=C(NC(=N2)C)C=C1 | C20H17N5O2
